US05547980
6-chloro-2-(N,N-diethylamino-methyl)benzo[b]thiophene-1,1 dioxide
A mixture of 37.3 g (0.15 mol) 3,6-dichloro-2-methylbenzo[b]thiophene-1,1-dioxide, 200 ml methanol and 45 ml diethylamine is heated for 4 hours to reflux. Afterwards it is concentrated by evaporation, taken up in ethyl acetate, washed with water, dried, concentrated and chromatographed on silica gel (eluting agent ethyl acetate/isohexane 1:1). 29.5 g of the title compound (62% of the theoretical yield) having a melting point of 58°-59° C. is isolated.

reactant | 3,6-dichloro-2-methylbenzo[b]thiophene-1,1-dioxide | 0.15 mol, 37.3 g | ClC=1C2=C(S(C1C)(=O)=O)C=C(C=C2)Cl | C9H6Cl2O2S
reactant | diethylamine | 45 ml | C(C)NCC | C4H11N
solvent | methanol | 200 ml | CO | CH4O
product | 6-chloro-2-(N,N-diethylamino-methyl)benzo[b]thiophene-1,1 dioxide | 29.5 g | ClC=1C=CC2=C(S(C(=C2)CN(CC)CC)(=O)=O)C1 | C13H16ClNO2S
